US06777414B1
Ethyl 3-aminobenzoate (1.65 g) was dissolved in xylene (20 ml), and bischloroethylamine hydrochloride (1.79 g) was added to the solution. The mixture was heated under reflux with stirring for two days. The solvent was removed from the reaction solution by distillation under the reduced pressure. Water and a saturated aqueous sodium hydrogencarbonate solution were added to the residue, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was then removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=9:1-5:1) to give 1.60 g (70.0%) of ethyl 3-piperazin-1-yl-benzoate.

reactant | Ethyl 3-aminobenzoate | 1.65 g | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | bischloroethylamine hydrochloride | 1.79 g | Cl.ClCCNCCCl
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl 3-piperazin-1-yl-benzoate | 1.60 g, 70.0% | N1(CCNCC1)C=1C=C(C(=O)OCC)C=CC1 | C13H18N2O2
